US06448263B1
C. 3a-Benzyl-2-methyl-2,3a,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one
To a solution of 3-benzyl-4-oxo-piperidine1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1935.97 g, 5.36 mol) in toluene (9700 mL) was added methylhydrazine (299.2 mL, 5.63 mol), followed by acetic acid (325 mL, 5.68 mol) slowly at about 8° C. The reaction mixture was heated slowly to about 65° C. and stirred for about 7.5 hours. After cooling to room temperature, the organic layer was washed with 10% sodium bicarbonate, water and saturated NaCl solution and concentrated in vacuo to a low volume. The reaction was repeated at same scale twice. The concentrated product solutions from the three reactions were combined and mixed with IPE (50 L), cooled to about 0° C., HCl gas was introduced repeatedly and stirred at room temperature overnight until the deprotection was complete. The mixture was concentrated in vacuo to about half of the original volume, methylene chloride (24 L) was added, followed by NH4OH (22 L). The mixture was then extracted with methylene chloride and concentrated to a low volume (6 to 7 L). Hexane (20 L) was added and the mixture was cooled to about 15-20° C. The free base product was collected as crystals and dried under vacuum (2985 g total, yield 84.8%).

reactant | 3-benzyl-4-oxo-piperidine1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 5.36 mol, 1935.97 g | C(C)OC(=O)C1(CN(CCC1=O)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C20H27NO5
reactant | methylhydrazine | 5.63 mol, 299.2 mL | CNN | CH6N2
reactant | acetic acid | 5.68 mol, 325 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 9700 mL | C1(=CC=CC=C1)C | C7H8
product | 3a-Benzyl-2-methyl-2,3a,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one | yield 84.8% | C(C1=CC=CC=C1)C12CNCCC1=NN(C2=O)C | C14H17N3O
